US07888503B2
A round-bottomed flask was charged with 1-{4-fluoro-3-[hydroxy(phenyl)methyl]phenyl}ethanone (140 mg) and dimethylformamide dimethylacetal (4 mL). The mixture was heated to reflux for 18 h then concentrated to dryness. The residue was taken up in minimal methylene chloride then added to rapidly stirring diethyl ether to induce a solid. The solids were collected on filter and washed with diethyl ether to provide (2E)-3-(dimethylamino)-1-{4-fluoro-3-[hydroxy(phenyl)methyl]phenyl}-2-propen-1-one as a white powder (60 mg). 8.09 (dd, 1H), 7.82 (m, 1H), 7.69 (d, 1H), 7.31 (m, 4H), 7.21 (m, 1H), 7.14 (dd, 1H), 6.06 (d, 1H), 5.94 (d, 1H), 5.75 (d, 1H), 3.14 (s, 3H), 2.88 (s, 3H).

reactant | 1-{4-fluoro-3-[hydroxy(phenyl)methyl]phenyl}ethanone | 140 mg | FC1=C(C=C(C=C1)C(C)=O)C(C1=CC=CC=C1)O | C15H13FO2
reactant | dimethylformamide dimethylacetal | 4 mL | COC(N(C)C)OC | C5H13NO2
product | (2E)-3-(dimethylamino)-1-{4-fluoro-3-[hydroxy(phenyl)methyl]phenyl}-2-propen-1-one | 60 mg | CN(/C=C/C(=O)C1=CC(=C(C=C1)F)C(C1=CC=CC=C1)O)C | C18H18FNO2
